US06790854B2
(a) 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine
4-Hydroxypiperidine hydrochloride (3 g) was dissolved in dioxane (30 ml), added with di-tert-butyl dicarbonate (5.2 g) and stirred at room temperature for 10 minutes. The reaction mixture was added with 8% aqueous sodium hydrogencarbonate (60 ml) and further stirred for 3.5 hours. Dioxane was evaporated under reduced pressure, and the aqueous layer was extracted with ethyl acetate (60 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 4.81 g of the title compound. Yield: 100%.

reactant | 4-Hydroxypiperidine hydrochloride | 3 g | Cl.OC1CCNCC1
reactant | di-tert-butyl dicarbonate | 5.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | 60 ml | C(O)([O-])=O.[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 1-(tert-Butoxycarbonyl)-4-hydroxypiperidine | 4.81 g, Yield: 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
